US06869954B2
1) Preparation of 4-(4-tert-butoxycarbonyl-1-piperazinyl)methyl-2-(4-fluorobenzyl)-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one
Following the procedure of Example 1(10), 2-(4-fluorobenzyl)-6-(3-fluoro-4-methoxyphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one and tert-butyl 1-piperazinecarboxylate were reacted to yield the title compound as a yellow oil (yield: 78.8%).

reactant | 2-(4-fluorobenzyl)-6-(3-fluoro-4-methoxyphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | FC1=CC=C(CN2N=C(C=C(C2=O)COS(=O)(=O)C)C2=CC(=C(C=C2)OC)F)C=C1 | C20H18F2N2O5S
reactant | tert-butyl 1-piperazinecarboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | 4-(4-tert-butoxycarbonyl-1-piperazinyl)methyl-2-(4-fluorobenzyl)-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one | yield: 78.8% | C(C)(C)(C)OC(=O)N1CCN(CC1)CC=1C(N(N=C(C1)C1=CC(=C(C=C1)OC)F)CC1=CC=C(C=C1)F)=O | C28H32F2N4O4
